US05202335
To a solution of (S)-3-benzyloxycarbonyl-4-phenylbutyric acid (671 mg) in anhydrous tetrahydrofuran (15 ml) were added N-methylmorpholine (0.5 ml) and isobutyl chloroformate (0.38 ml) with stirring at -20° C. for 20 minutes. To the mixture was added a solution of cis-hexahydroisoindoline (313 mg) in anhydrous tetrahydrofuran (5 ml) with stirring at -10 - -20° C. After 1 hour, the deposit was filtered off and the solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate and washed successively with 0.5N hydrochloric acid, saturated sodium bicarbonate solution, and brine and dried over MgSO4. After the solvent was evaporated under reduced pressure, the residue was recrystallized from dichloromethane-hexane to give 772 mg of benzyl (S)-2-benzyl-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionate.

reactant | (S)-3-benzyloxycarbonyl-4-phenylbutyric acid | 671 mg | C(C1=CC=CC=C1)OC(=O)[C@H](CC(=O)O)CC1=CC=CC=C1 | C18H18O4
reactant | N-methylmorpholine | 0.5 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.38 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | cis-hexahydroisoindoline | 313 mg | C1NC[C@@H]2CCCC[C@H]12 | C8H15N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | benzyl (S)-2-benzyl-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionate | 772 mg | C(C1=CC=CC=C1)[C@H](C(=O)OCC1=CC=CC=C1)CC(=O)N1C[C@H]2CCCC[C@H]2C1 | C26H31NO3
